US09126956B2
6A: (2S,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxymethyl-4-[(3-methoxyisoxazole-5-carbonyl)amino]-2-methylpentanoic Acid
3-Methoxyisoxazole-5-carboxylic acid (9 mg, 32 μmol) was combined with HATU (12 mg, 32 μmol) and DMF (0.2 mL) and the resulting mixture was stirred for 5 minutes. DIPEA (17 μL, 96 μmol) and (2S,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxymethyl-2-methylpentanoic acid (79 mg, 38 μmol) pre-dissolved in DMF were added and the resulting mixture was stirred for 15 minutes then concentrated. The residue was dissolved in AcOH and purified by preparative HPLC to yield the title compound (2.2 mg). MS m/z [M+H]+ calc'd for C24H25ClN2O6, 473.14. found 473.2.

reactant | 3-Methoxyisoxazole-5-carboxylic acid | 32 μmol, 9 mg | COC1=NOC(=C1)C(=O)O | C5H5NO4
reactant | HATU | 32 μmol, 12 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 96 μmol, 17 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2S,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxymethyl-2-methylpentanoic acid | 38 μmol, 79 mg | N[C@@H](C[C@@](C(=O)O)(C)CO)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl | C19H22ClNO3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxymethyl-4-[(3-methoxyisoxazole-5-carbonyl)amino]-2-methylpentanoic Acid | 2.2 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)C1=CC(=NO1)OC | C24H25ClN2O6
